Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
s/p fall with facial trauma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p fall onto his face on steps of concrete, +ETOH,
presented to an OSH with multiple facial fractures. He was
transferred here for further evaluation by surgical services.  
The patient reports that he had stepped outside to have a
cigarette and bent to the ground to pick up the remains and lost
his balance and hit his face to the ground. He denies any LOC,
memory loss, headaches. He reportedly drank around alcoholic
beverages prior to the incident. 

 
Past Medical History:
Past Medical History: irregular heartbeat, CAD s/p stent, HLD,
HTN, CHF, gout

Past Surgical History: b/l inguinal hernia repairs with mesh 

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Gen: Awake and alert
HEENT: Swollen face throughout, head wrap in place, sutured R 
forehead laceration
CV: RRR
Resp: CTAB
Abd: Soft, nontender, nondistended
Ext: Warm and well perfused
 
Pertinent Results:
Pan-CT scan at OSH: Negative except findings below

CT C-spine:
1. No acute cervical spine fractures identified.  Moderate 
degenerative 
changes seen throughout the cervical spine. 
2. Left mandibular condyle fracture, and right orbital floor 
fracture, better evaluated on the dedicated CTs of the face. 

Panorex: 
Again seen is the nondisplaced fracture involving the body of 
the right 
mandible extending to the right ___ 30 tooth (right mandibular 
molar), in 
overall anatomic alignment on this view.  The known nondisplaced 
comminuted fracture of the left mandibular condyle is not well 
demonstrated on these images, better seen on recent facial bone 
CT.  On the basis of these images, the presence of subluxation 
of the left TM joint cannot be excluded.  Note is made of 
multiple missing teeth. 

 
Brief Hospital Course:
Mr. ___ was admitted to ___ 
on ___ after undergoing a fell onto his face with multiple 
facial fractures. Plastic surgery was consulted, who recommended 
sinus precautions, an ophthalmology consult, head wrap x48 hrs, 
and they sutured his facial laceration closed and applied a 
xeroform dressing with gauze. Ophthalmology was consulted, who 
said that his right eye lateral canthus laceration will need to 
be repaired once the swelling resolves, and recommended 
follow-up in in clinic in ___ weeks. Neurosurgery was consulted, 
and they recommended no need for neurosurgical intervention. 
___ was consulted, and they recommended operative intervention 
for his right mandible fracture, which the patient refused after 
much discussion. In lieu of this, they recommended close 
outpatient follow-up, full liquid diet for at least 2 weeks, 
chlorhexadine rince BID for 2 weeks, and clindamycin TID x7 
days. The patient remained hemodynamically stable, and had no 
pain. He was discharged home with plans to follow-up with each 
of these specialties as well as ACS in the next few weeks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 25 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Isosorbide Mononitrate 60 mg PO DAILY 

 
Discharge Medications:
1. Carvedilol 25 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Allopurinol ___ mg PO EVERY OTHER DAY 
4. Furosemide 40 mg PO EVERY OTHER DAY 
5. fenofibrate 145  oral DAILY 
6. Isosorbide Mononitrate 60 mg PO DAILY 
7. Clindamycin 150 mg PO Q6H 
RX *clindamycin HCl 150 mg 1 capsule(s) by mouth every 6 hours 
Disp #*56 Capsule Refills:*0
8. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
Duration: 14 Days 
RX *chlorhexidine gluconate 0.12 % Rinse mouth with 15 mL twice 
daily Refills:*0
9. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
blowout fx of right orbit
R mandibular fx w subluxation
R parietal bone fx
L comminunted fx of condyle into TMJ

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
falling. You have multiple facial fractures, including a left 
jaw (mandible) fracture and a blowout fracture of your right 
orbit (around your eye). You are recovering well and are now 
ready for discharge. Please follow the instructions below to 
continue your recovery:

--Full liquid diet for 2 weeks.
--Continue antibiotics (clindamycin) for 1 week.
--Maintain sinus precautions until you follow-up with OMFS.
--Rinse your mouth twice daily with chlorhexadine rinse for 2 
weeks.
--Keep head wrap in place for 48 hours.
--Daily dressing changes to forehead laceration.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___